US05017724
19 Milliliters of a 15% n-butyl lithium n-hexane solution was added dropwise to a tetrahydrofuran solution containing 5.0 g of 5,7-dimethyl-8-methoxy-2,3,4,4a-tetrahydro-1H-fluorene in 50 ml of tetrahydrofuran at -50° C. After stirring at the same temperature for 40 minutes, thereto was added dropwise 6 ml of bromoacetoaldehyde diethyl acetal at the same temperature, followed by stirring at the same temperature for 1.5 hour. To the reaction mixture was added a saturated aqueous ammonium chloride solution and this was diluted with diethyl ether, washed with water twice and then with a saturated aqueous sodium chloride solution and then dried with magnesium sulfate. The solvent was distilled off and the residue was purified by a silica gel column chromatography (eluent: ethyl acetate:n-hexane=1:30) to obtain 5.68 g of 5,7-dimethyl-8-methoxy-9-(2,2-diethoxyethyl)-1,2,3,4-tetrahydro-9H-fluorene.

reactant | n-butyl lithium n-hexane | CCCCCC.C(CCC)[Li]
reactant | 5,7-dimethyl-8-methoxy-2,3,4,4a-tetrahydro-1H-fluorene | 5.0 g | CC1=C2C3CCCCC3=CC2=C(C(=C1)C)OC | C16H20O
reactant | bromoacetoaldehyde diethyl acetal | 6 ml | C(C)OC(CBr)OCC | C6H13BrO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 5,7-dimethyl-8-methoxy-9-(2,2-diethoxyethyl)-1,2,3,4-tetrahydro-9H-fluorene | 5.68 g | CC1=C2C=3CCCCC3C(C2=C(C(=C1)C)OC)CC(OCC)OCC | C22H32O3
